US09108957B2
To a solution of 4-benzyl-5-methyl-[1,4]oxazepane (0.30 g, 1.4 mmol) in 1,2-dichloroethane (3 mL) was added chloroethyl chloroformate (0.56 mL, 7 mmol) at room temperature. The mixture was refluxed for 10 hours and concentrated. The resulting residue was dissolved in methanol (5 mL) and the solution was refluxed for one hour. After concentration, the residual material was triturated, washed with ethyl acetate and collected by filtration to afford 5-methyl-[1,4]oxazepane hydrochloride (0.16 g, 1.1 mmol, 76%) as a white solid.

reactant | 4-benzyl-5-methyl-[1,4]oxazepane | 1.4 mmol, 0.30 g | C(C1=CC=CC=C1)N1CCOCCC1C | C13H19NO
reactant | chloroethyl chloroformate | 7 mmol, 0.56 mL | ClC(=O)OCCCl | C3H4Cl2O2
solvent | 1,2-dichloroethane | 3 mL | ClCCCl | C2H4Cl2
product | 5-methyl-[1,4]oxazepane hydrochloride | 1.1 mmol, 0.16 g, 76% | Cl.CC1NCCOCC1 | InChI=1S/C6H13NO.ClH/c1-6-2-4-8-5-3-7-6;/h6-7H,2-5H2,1H3;1H
